US05726282
Preparation of Poly(benzobisimidazole Divinylene)
3,3'-Diaminobenzidine (1.508 g, 7.04 mmol) was dehydrochlorinated with 83.3 wt % deaerated PPA in accordance with the procedure enumerated in Example 1. The product of this dehydrochlorination was reacted with trans,trans-muconic acid (1.0 g, 7.04 mmol) in accordance with the procedure of Example 1. This polymerization reaction was conducted for a total of 30 hours, the first 6 hours of which were at a temperature of 100° C. and the final 24 hours at 140° C. The product of this reaction was a yellowish-brown polymerization dope. This product was precipitated in water and purified by extraction, for 3 days, with water.

reactant | 3,3'-Diaminobenzidine | 7.04 mmol, 1.508 g | NC=1C=C(C=CC1N)C1=CC(=C(N)C=C1)N | C12H14N4
reactant | trans,trans-muconic acid | 7.04 mmol, 1.0 g | C(\C=C\C=C\C(=O)O)(=O)O | C6H6O4
product | benzobisimidazole Divinylene | C#C.C#C.N1=CNC2=C1C=CC=C2.N2=CNC1=C2C=CC=C1 | InChI=1S/2C7H6N2.2C2H2/c2*1-2-4-7-6(3-1)8-5-9-7;2*1-2/h2*1-5H,(H,8,9);2*1-2H
